US08034812B2
Production of N-{6-[(3-aminophenyl)sulfanyl]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (500 mg, 1.52 mmol), 3-aminobenzenethiol (381 mg, 3.04 mmol), potassium carbonate (630 mg, 4.56 mmol) and N,N-dimethylformamide (5.0 mL) was stirred at 80° C. for 3 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→80/20) and precipitated from ethyl acetate to give the title compound (396 mg, 80%).

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 1.52 mmol, 500 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 3-aminobenzenethiol | 3.04 mmol, 381 mg | NC=1C=C(C=CC1)S | C6H7NS
reactant | potassium carbonate | 4.56 mmol, 630 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{6-[(3-aminophenyl)sulfanyl]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 396 mg, 80% | NC=1C=C(C=CC1)SC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C16H15N5OS
